US08202858B2
4-[3-(4-Carboxy-2-fluoro-phenoxy)-propyl]-piperazine-1-carboxylic Acid Tert-butyl Ester
A solution of 4-[3-(4-ethoxycarbonyl-2-fluoro-phenoxy)-propyl]-piperazine-1-carboxylic acid tert-butyl ester from Example E39.1 (1.7 g, 4.1 mmol) in dioxan (25 ml) was treated with 2N NaOH (3 ml) and the mixture stirred at 50° C. for 18 h. A further aliquot of 2N NaOH was added (2 ml), and stirring continued at 50° C. for 3 h. Solvents were removed in vacuo and azeotroped with toluene. The residue was purified by flash chromatography on silica gel (eluant; 1% acetic acid:9% methanol:90% chloroform) to yield the title compound (1.45 g, 92%).

reactant | 4-[3-(4-ethoxycarbonyl-2-fluoro-phenoxy)-propyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)OCC)F | C21H31FN2O5
reactant | NaOH | 2N, 3 ml | [OH-].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(4-Carboxy-2-fluoro-phenoxy)-propyl]-piperazine-1-carboxylic Acid Tert-butyl Ester | 1.45 g, 92% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)O)F | C19H27FN2O5
